US08957205B2
1-[(2-Benzofuranylcarbonyl)amino]cyclohexanecarboxylic acid ethyl ester
3.11 g (15 mmol) of 1-aminocyclohexanecarboxylic acid ethyl ester hydrochloride was used instead of 1-aminocyclohexanecarboxylic acid methyl ester hydrochloride and 2.43 g (15 mmol) of benzofuran-2-carboxylic acid was used instead of 3-furancarboxylic acid in the process according to Reference example 15 to obtain 3.80 g (80%) of the title compound.

reactant | 1-aminocyclohexanecarboxylic acid ethyl ester hydrochloride | 15 mmol, 3.11 g | Cl.C(C)OC(=O)C1(CCCCC1)N
reactant | benzofuran-2-carboxylic acid | 15 mmol, 2.43 g | O1C(=CC2=C1C=CC=C2)C(=O)O | C9H6O3
product | 1-[(2-Benzofuranylcarbonyl)amino]cyclohexanecarboxylic acid ethyl ester | 3.80 g, 80% | C(C)OC(=O)C1(CCCCC1)NC(=O)C=1OC2=C(C1)C=CC=C2 | C18H21NO4
